US06797718B2
Ammonium acetate (18 g, 0.23 mol) and 1-[5-(benzenesulfonyl)pentyl]-6,7-dimethyl-4-phenoxy-2-propyl-1H-imidazo[4,5-c]pyridine (1.74 g, 3.54 mmol) were heated at 165° C. in a sealed tube for 8 hours with stirring. Following the work-up, an analysis by NMR indicated that starting material was present; additional ammonium acetate was added (18 g, 0.23 mol), and the reaction was continued overnight at 160° C. The solution was allowed to cool to room temperature and partitioned between chloroform (100 mL) and 1 M sodium hydroxide (75 mL). Following the work-up, the crude product (1.37 g) was purified by column chromatography on silica gel (eluting with 97:3:0.1 dichloromethane:methanol:ammonium hydroxide) and then recrystallized from acetonitrile to provide 0.715 g of 1-[5-(benzenesulfonyl)pentyl]-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-4-amine as a white powder, mp 134.0-136.0° C. with a phase change at 122-125° C.

reactant | Ammonium acetate | 0.23 mol, 18 g | C(C)(=O)[O-].[NH4+]
reactant | 1-[5-(benzenesulfonyl)pentyl]-6,7-dimethyl-4-phenoxy-2-propyl-1H-imidazo[4,5-c]pyridine | 3.54 mmol, 1.74 g | C1(=CC=CC=C1)S(=O)(=O)CCCCCN1C(=NC=2C(=NC(=C(C21)C)C)OC2=CC=CC=C2)CCC | C28H33N3O3S
product | 1-[5-(benzenesulfonyl)pentyl]-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-4-amine | 0.715 g | C1(=CC=CC=C1)S(=O)(=O)CCCCCN1C(=NC=2C(=NC(=C(C21)C)C)N)CCC | C22H30N4O2S
